US04588812
Preparation of (3-oxo-5H-thiazolo[2,3-b]quinazolin-2(3H)-ylidene)acetic Acid Phenyl Ester
A solution of 1.30 g (5 mmols) (3-oxo-5H-thiazolo[2,3-b]quinazolin-2(3H)-ylidene)acetic acid, 1.27 g (5 mmols) N,N-bis(2-oxo-3-oxazolidinyl)phosphorodiamidic chloride, 0.49 g (5.2 mmols) phenol, and 1.10 g (10 mmols) triethylamine, in 10 ml dichloromethane was stirred at room temperature, under nitrogen atmosphere for 18 hours. Then, 10 ml of water (made slightly basic with sodium bicarbonate) were added. The precipitate was filtered of and the filtrate was dried over anhydrous magnesium sulfate, and evaporated to dryness under reduced pressure. The residual orange-yellow solid was recrystallized from anhydrous ethanol. Yield--0.62 g. Mp 194°-195° C.

reactant | (3-oxo-5H-thiazolo[2,3-b]quinazolin-2(3H)-ylidene)acetic acid | 5 mmols, 1.30 g | O=C1C(SC2=NC3=CC=CC=C3CN21)=CC(=O)O | C12H8N2O3S
reactant | N,N-bis(2-oxo-3-oxazolidinyl)phosphorodiamidic chloride | 5 mmols, 1.27 g | O=C1OCCN1N(P(=O)(N)Cl)N1C(OCC1)=O | C6H10ClN4O5P
reactant | phenol | 5.2 mmols, 0.49 g | C1(=CC=CC=C1)O | C6H6O
reactant | triethylamine | 10 mmols, 1.10 g | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | 10 ml | O | H2O
product | (3-oxo-5H-thiazolo[2,3-b]quinazolin-2(3H)-ylidene)acetic Acid Phenyl Ester | C1(=CC=CC=C1)OC(C=C1C(N2C(=NC3=CC=CC=C3C2)S1)=O)=O | C18H12N2O3S
